US06335459B1
A solution of 2-chloro-3-hydroxybenzoic acid (2.59 g, 15 mmol) in tetrahydrofuran was added dropwise to a solution of borane (48 mmol) in tetrahydrofuran (150 mL) at a temperature of 0° C. The reaction mixture was then warmed to 60° C. and allowed to stir overnight. Upon cooling, the mixture was quenched with water and made basic with 3M sodium hydroxide. The aqueous layer was separated, acidified with 3M hydrochloric acid, and extracted with dichloromethane. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Recrystallization from ethanol/hexane gave 2-chloro-3-hydroxymethylphenol as a white crystalline solid (1.63 g, 64.8%).

reactant | 2-chloro-3-hydroxybenzoic acid | 15 mmol, 2.59 g | ClC1=C(C(=O)O)C=CC=C1O | C7H5ClO3
reactant | borane | 48 mmol | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-chloro-3-hydroxymethylphenol | 1.63 g, 64.8% | ClC1=C(C=CC=C1CO)O | C7H7ClO2
